* C:\Users\ariel\InformesTC\TP3\EJ3\tp3 ej3\final.asc
R3 N001 N003 {mc(12k,tola)}
R4 N003 N005 {mc(1k,tola)}
R6 N005 N006 {mc(1k,tola)}
R7 N006 N007 {mc(12k,tola)}
R1 N002 N001 1k
R2 Vout N002 10k
R8 N004 N007 1k
R9 N008 N004 10k
R5 N005 Vfeed 5k
V5 v2 0 SINE(0 0.1) AC 0.1
V1 vcc+ 0 15
V2 0 vcc- 15
XU1 N008 0 vcc+ vcc- Vfeed TL084
XU2 N004 N002 vcc+ vcc- Vout TL084
XU3 v2 N003 vcc+ vcc- N001 TL084
XU4 v2 N006 vcc+ vcc- N007 TL084
.ac dec 100 100 10000meg
.inc opamp.sub
.inc C:\Users\ariel\InformesTC\TP3\EJ3\tp3 ej3\TL084.301
.param tola=0.05
.step param run 1 100 5
.backanno
.end
