* C:\Users\newtonis\InformesTC\TP3\EJ3\tp3 ej3\final.asc
R3 N002 N001 {mc(12k,tola)}
R4 N001 N005 {mc(1k,tola)}
R6 N005 N006 {mc(1k,tola)}
R7 N006 N007 {mc(12k,tola)}
R1 N003 N002 1k
R2 Vout N003 10k
R8 N004 N007 1k
R9 N008 N004 10k
R5 N005 Vfeed 78k
V5 v2 0 SINE(0 0.1) AC 0.1
V1 vcc+ 0 15
V2 0 vcc- 15
XU1 N003 N004 Vout opamp Aol=200K GBW=2Meg
XU2 0 N008 Vfeed opamp Aol=50K GBW=2Meg
XU3 N006 v2 N007 opamp Aol=200K GBW=1Meg
XU4 N001 v2 N002 opamp Aol=200K GBW=3Meg
.ac dec 100 100 10000meg
.inc opamp.sub
.inc C:\Users\newtonis\InformesTC\TP3\EJ3\tp3 ej3\TL084.301
.param tola=0.01
.backanno
.end
